US04472409
18. 5-Trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)sulfinyl]-(1H)-benzimidazole calcium salt
0.09 g (0.003 mole) of 80% sodium hydride (in paraffin) are added to a solution of 1.1 g of 5-trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)-sulfinyl]-(1H)-benzimidazole in 20 ml of dry dioxan under an inert gas atmosphere. After the evolution of gas has subsided, the solvent is stripped off in vacuo. The residue (5-trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)-sulfinyl]-(1H)-benzimidazole sodium salt) is dissolved in a little water, and a 1% strength aqueous calcium chloride solution is added. The precipitate which has separated out is filtered off with suction and dried in a high-vacuum for several hours. M.p. 176° C. (decomposition).

reactant | sodium hydride | 0.003 mole, 0.09 g | [H-].[Na+]
reactant | 5-trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)-sulfinyl]-(1H)-benzimidazole | 1.1 g | FC(C1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2)OC)C=C1)(F)F | C15H12F3N3O2S
reactant | 5-trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)-sulfinyl]-(1H)-benzimidazole sodium salt | [Na].FC(C1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2)OC)C=C1)(F)F
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-Trifluoromethyl-2-[(4-methoxy-2-pyridylmethyl)sulfinyl]-(1H)-benzimidazole calcium salt | [Ca].FC(C1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2)OC)C=C1)(F)F | InChI=1S/C15H12F3N3O2S.Ca/c1-23-11-4-5-19-10(7-11)8-24(22)14-20-12-3-2-9(15(16,17)18)6-13(12)21-14;/h2-7H,8H2,1H3,(H,20,21);
